US09290468B2
Step 1: 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one
To a solution of 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one (50 mg, 0.12 mmol) in DCM (5 mL) was added triethylamine (24 mg, 0.23 mmol) at 0° C. followed by 1-allylcyclopropane-1-sulfonyl chloride (32 mg, 0.17 mmol) and DMAP (10 mg). After stirring at room temperature for 1 h, the mixture was washed with saturated NaHCO3 (aq.). The aqueous layer was extracted with DCM (20 mL×2). The combined organic phase was washed by water (20 mL) and brine (20 mL) sequentially, dried over Na2SO4, filtered and concentrated to give a residue, which was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1, v/v) to give the corresponding product (60 mg, 89.9% yield). 1H NMR (400 MHz, CDCl3): δ 8.36 (s, 1H), 7.76-7.74 (m, 2H), 7.35 (m, 1H), 5.75-5.58 (m, 1H), 5.05 (m, 2H), 2.90-2.80 (m, 1H), 2.10-2.0 (m, 1H), 1.95-1.86 (m, 2H), 1.25-1.11 (m, 2H).

reactant | 4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one | 0.12 mmol, 50 mg | FC1=C2C(=CC3=C1N=NS3)NC(N2C2=C(C=C(C=C2)I)F)=O | C13H5F2IN4OS
reactant | triethylamine | 0.23 mmol, 24 mg | C(C)N(CC)CC | C6H15N
reactant | 1-allylcyclopropane-1-sulfonyl chloride | 0.17 mmol, 32 mg | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one | 60 mg, 89.9% yield | C(C=C)C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=NS1)C2F)C2=C(C=C(C=C2)I)F)=O | C19H13F2IN4O3S2
